US06281227B1
A. 1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridine
Benzenesulfonyl chloride (3 mL, 23.5 mmol) is added dropwise to a solution of tetrabutylammonium hydrogen sulfate (0.53 g, 1.56 mmol), sodium hydroxide (1.56 g, 38.9 mmol) and 4-chloro-1H-pyrrolo[3,2-c]pyridine (2.38 g, 15.6 mmol) (prepared according to Rasmussen, M. J. Het. Chem, 1992, 29, 359) in CH2Cl2. The mixture is stirred at room temperature for 4 hours the diluted with CH2Cl2 and washed with saturated NH4Cl solution and brine. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with 1% MeOH/CH2Cl2 to 2% MeOH/CH2Cl2 to afford the title product (3.21 g, 11 mmol) as a white solid.

reactant | Benzenesulfonyl chloride | 23.5 mmol, 3 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydroxide | 38.9 mmol, 1.56 g | [OH-].[Na+]
reactant | 4-chloro-1H-pyrrolo[3,2-c]pyridine | 15.6 mmol, 2.38 g | ClC1=NC=CC2=C1C=CN2 | C7H5ClN2
catalyst | tetrabutylammonium hydrogen sulfate | 1.56 mmol, 0.53 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridine | 11 mmol, 3.21 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=NC=CC21)Cl | C13H9ClN2O2S
